US08802704B2
Step 2: methyl 2-ethoxy-2′-(trifluoromethyl)biphenyl-4-carboxylate
A mixture of methyl 2-hydroxy-2′-(trifluoromethyl)biphenyl-4-carboxylate (5.03 g), anhydrous potassium carbonate (7.05 g, 51 mmol) and bromoethane (6.35 mL, 85 mmol) was prepared in anhydrous ACN (75 mL) and heated at 50° C. for 15 hours. The reaction mixture was cooled at RT, filtered and concentrated under reduced pressure. After purification by flash chromatography (silica, EtOAc/heptane), the title was obtained as a colorless oil (4.45 g, 79% over 2 steps). HPLC (Method A), Rt 5.3 min (purity: 99.0%). LC/MS (Method B): 325.0 (M+H)+.

reactant | methyl 2-hydroxy-2′-(trifluoromethyl)biphenyl-4-carboxylate | 5.03 g | OC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C15H11F3O3
reactant | potassium carbonate | 51 mmol, 7.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethane | 85 mmol, 6.35 mL | BrCC | C2H5Br
solvent | ACN | 75 mL | C(C)#N | C2H3N
product | methyl 2-ethoxy-2′-(trifluoromethyl)biphenyl-4-carboxylate | C(C)OC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C17H15F3O3
